US08557830B2
A mixture of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (7.68 g, 50 mmol), 2-fluoropyridin-3-ylboronic acid (10.57 g, 75 mmol), and tetrakis(triphenylphosphine)palladium(0) (2.89 g, 2.5 mmol) was suspended in DME (300 mL) and aqueous sodium carbonate (10%) (50 mL, 100 mmol). The suspension was heated at reflux over night, cooled to r.t. and the reaction mixture was partitioned between EtOAc (300 mL) and NaHCO3 (aq., sat., 200 mL). The aqueous layer was washed with EtOAc twice. The organic layers were combined and washed with brine, then loaded on silica and purified via flash column (EtOAc:hexane=50-95%) on ISCO to give 4-(2-fluoropyridin-3-yl)-7H-pyrrolo[2,3-d]pyrimidine as a light yellow solid with a green tint (1.85 g, 17% yield). MS (ESI, pos. ion) m/z: 214 [M+H]+

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 50 mmol, 7.68 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 2-fluoropyridin-3-ylboronic acid | 75 mmol, 10.57 g | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 100 mmol, 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 300 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.5 mmol, 2.89 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-fluoropyridin-3-yl)-7H-pyrrolo[2,3-d]pyrimidine | 17% yield | FC1=NC=CC=C1C=1C2=C(N=CN1)NC=C2 | C11H7FN4
